US06784198B1
Preparation of N-(5-isopropyl-1,3-thiazol-2-yl)-2-[2-(2-oxo-1-pyrrolidinyl)-1,3-thiazol-4-yl]acetamide
A mixture of 2.8 g (0.01 mol) of 2-(2-amino-1,3-thiazol-4-yl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide, 4.84 g (0.02 mol) of ethyl-iodobutyrate and 2.76 g (0.02 mol) of potassium carbonate in 50 ml of absolute ethanol was stirred under reflux for 5 hours. The mixture was cooled and filtered, and the salts were washed with two 20 ml portions of ethanol. The ethanol was removed at reduced pressure and the residue was dissolved in 100 ml of CH2Cl2. The solution was washed with 30 ml of water, dried, and the solvent was evaporated. The residue was purified by chromatography on silica gel, using CH2Cl2:MeOH 95:5 as eluent, to give the title compound in 30% yield (1.05 g).

reactant | 2-(2-amino-1,3-thiazol-4-yl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide | 0.01 mol, 2.8 g | NC=1SC=C(N1)CC(=O)NC=1SC(=CN1)C(C)C | C11H14N4OS2
reactant | ethyl-iodobutyrate | 0.02 mol, 4.84 g | C(C)C(C(=O)[O-])(CC)I
reactant | potassium carbonate | 0.02 mol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(5-isopropyl-1,3-thiazol-2-yl)-2-[2-(2-oxo-1-pyrrolidinyl)-1,3-thiazol-4-yl]acetamide | 30% yield | C(C)(C)C1=CN=C(S1)NC(CC=1N=C(SC1)N1C(CCC1)=O)=O | C15H18N4O2S2
